US05929085
(a) 1,2,3,5,10,10a-Hexahydropyrrolo[1,2-b]isoquinoline
A suspension of 2,3-dihydropyrrolo[1,2-b]isoquinolin-5(1H)-one (10.8 g, 58.3 mmol) [G. M. Coppola, J. Heterocycl. Chem., 1981, 18, 767] in phosphorus oxychloride (100 ml) was heated at reflux for 1.5 h. Upon cooling, the solvent was removed in vacuo to give an oil. This oil was immediately taken up in cold methanol (275 ml) and sodium borohydride (4.0 g) was added portionwise to this solution while maintaining the reaction mixture at 0° C. The solvent was concentrated and the residue was dissolved in water and washed twice with ethyl acetate. The aqueous solution was made basic with potassium carbonate solution and extracted with ethyl acetate. The organic phase was dried (magnesium sulfate) and concentrated to give an oil. Column chromatography on silica gel gave unreacted starting material (3.57 g, 36%) and the title compound (4.2 g, 63% based on recovered starting material) as a light oil; MS 174 (M+H)+ ; NMR (CDCl3) 7.0-7.2 (broad m, 4H), 4.13 (d, 1H, J=15), 3.40 (d, 1H, J=15), 3.27 (dt, 1H), 2.9-3.1 (M, 1H), 2.71 (t, 1H), 1.4-2.4 (m, 6H).

reactant | 2,3-dihydropyrrolo[1,2-b]isoquinolin-5(1H)-one | 58.3 mmol, 10.8 g | C1CCN2C(C=3C=CC=CC3C=C21)=O | C12H11NO
reactant | sodium borohydride | 4.0 g | [BH4-].[Na+]
solvent | phosphorus oxychloride | 100 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | methanol | 275 ml | CO | CH4O
product | 1,2,3,5,10,10a-Hexahydropyrrolo[1,2-b]isoquinoline | 4.2 g, 63% | C1CCN2CC=3C=CC=CC3CC21 | C12H15N
